US06525202B2
8-[4-(1H-Tetrazol-5-yl)-phenyl]-1,4-dioxa-8-aza-spiro[4.5]decane
A mixture of 4-(1,4-dioxa-8-azaspiro(4.5)dec-8-yl)benzonitrile benzaldehyde (Taylor, E. C., Skotnicki, J. S. Synthesis, 1981, 606) (10 mmol, 2.44 g), sodium azide (30 mmol, 1.95 g) and triethylamine hydrochloride (30 mmol, 4.13 g) in toluene was heated to ˜95° C. over night (Koguro, K., Oga, T., Missui, S. and Orita, R. Synthesis, 1998, 910). After cooling the mixture was poured into water and the solid which was formed was collected. To the aqueous layer 36% hydrochloric acid was added dropwise to salt out more solid. The combined solids were dried to yield the title compound as an off-white solid (2.30 g, 80%); 1H NMR (300 MHz, DMSO-d6) δ 1.70 (t, J=5.7 Hz, 4H), 3.44 (t, J=5.7 Hz, 4H), 3.92 (s, 4H), 7.12 (d, J=9.0 Hz, 2H), 7.85 (d, J=9.0 Hz, 2H); MS (ES) m/z: 288.4 (MH+); HRMS Calcd. for C14H17N5O (M+): 287.1382. Found: 287.1375.

reactant | 4-(1,4-dioxa-8-azaspiro(4.5)dec-8-yl)benzonitrile benzaldehyde | 10 mmol, 2.44 g | C(C1=CC=CC=C1)=O.O1CCOC12CCN(CC2)C2=CC=C(C#N)C=C2
reactant | sodium azide | 30 mmol, 1.95 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 30 mmol, 4.13 g | Cl.C(C)N(CC)CC
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 8-[4-(1H-Tetrazol-5-yl)-phenyl]-1,4-dioxa-8-aza-spiro[4.5]decane | 2.30 g, 80% | N1N=NN=C1C1=CC=C(C=C1)N1CCC2(OCCO2)CC1 | C14H17N5O2
